US07135466B2
N-[2-(2-Chlorophenoxy)propanoyl]-N′-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}thiourea
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available 2-(2-chlorophenoxy)propanoic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 2-(2-chlorophenoxy)propanoyl isothiocyanate was prepared using the resultant 2-(2-chlorophenoxy)propanoyl chloride as a starting compound according to the description of the literature. 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline (50 mg) was dissolved in toluene (5 ml) and ethanol (1 ml) to prepare a solution. A solution of 2-(2-chlorophenoxy)propanoyl isothiocyanate in ethanol (1 ml) was then added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (45 mg, yield 50%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2-chlorophenoxy)propanoic acid | 80 mg | ClC1=C(OC(C(=O)O)C)C=CC=C1 | C9H9ClO3
reactant | 2-(2-chlorophenoxy)propanoyl chloride | ClC1=C(OC(C(=O)Cl)C)C=CC=C1 | C9H8Cl2O2
reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C16H15N3O3
reactant | 2-(2-chlorophenoxy)propanoyl isothiocyanate | ClC1=C(OC(C(=O)N=C=S)C)C=CC=C1 | C10H8ClNO2S
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-(2-Chlorophenoxy)propanoyl]-N′-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]phenyl}thiourea | 45 mg, yield 50% | ClC1=C(OC(C(=O)NC(=S)NC2=CC=C(C=C2)OC2=NC=NC3=CC(=C(C=C23)OC)OC)C)C=CC=C1 | C26H23ClN4O5S
